US08124766B2
With a procedure similar to the example above, 4-{4-[(3-methoxymethyl-benzofuran-2-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester was prepared from 3-methoxymethyl-benzofuran-2-carboxylic acid and 4-(4-amino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester. LCMS calcd for C26H31N3O5 (m/e) 465, obsd 466 (M+H).

reactant | 3-methoxymethyl-benzofuran-2-carboxylic acid | COCC1=C(OC2=C1C=CC=C2)C(=O)O | C11H10O4
reactant | 4-(4-amino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N | C15H23N3O2
product | 4-{4-[(3-methoxymethyl-benzofuran-2-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1COC)C=CC=C2 | C26H31N3O5
